US07220856B2
Preparation of 7-Chloro-4-[4-(4-fluorophenylamino(imino)methyl)piperazin-1-yl]quinoline
7-Chloro-4-(4-cyanopiperazin-1-yl)quinoline (150 mg, 0.55 mmol) and 4-fluoroaniline (66 μL, 0.7 mmol) in 1,1,1,3,3,3-hexafluoro-2-propanol (5 mL) are heated at 150° C. in a sealed tube for 66 h. The reaction mixture is concentrated, and the residue is purified by column chromatography with CH2Cl2—NH3-MeOH to give the title product as a colorless foam.

reactant | 7-Chloro-4-(4-cyanopiperazin-1-yl)quinoline | 0.55 mmol, 150 mg | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C#N | C14H13ClN4
reactant | 4-fluoroaniline | 0.7 mmol, 66 μL | FC1=CC=C(N)C=C1 | C6H6FN
solvent | 1,1,1,3,3,3-hexafluoro-2-propanol | 5 mL | FC(C(C(F)(F)F)O)(F)F | C3H2F6O
product | 7-Chloro-4-[4-(4-fluorophenylamino(imino)methyl)piperazin-1-yl]quinoline | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(=N)NC1=CC=C(C=C1)F | C20H19ClFN5
